US04394506
N-[(5,6-dimethyl-1,2,4-triazin-3-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide
To a stirred suspension of 1.2 g of 3-amino-5,6-dimethyl-1,2,4-triazine in 25 ml of anhydrous acetonitrile was added at ambient temperature 2.4 g of 2-methoxycarbonylbenzenesulfonylisocyanate. After stirring for 24 hours at ambient temperature, the resultant precipitate was filtered off to yield 2.5 g of the desired compound melting at 150°-151°. It showed infrared absorption peaks at 1700, 1680 and 1550 cm-1, consistent for N-[(5,6-dimethyl-1,2,4-triazin-3-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide.

reactant | 3-amino-5,6-dimethyl-1,2,4-triazine | 1.2 g | NC=1N=NC(=C(N1)C)C | C5H8N4
reactant | 2-methoxycarbonylbenzenesulfonylisocyanate | 2.4 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[(5,6-dimethyl-1,2,4-triazin-3-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 2.5 g | CC=1N=C(N=NC1C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C14H15N5O5S
